US05880158
S-N-Benzyl-2,3-Dimethoxypropionamide
(S)-N-benzyl-2,3-dihydroxypropionamide was prepared in the following manner: (S)-N-benzyl-2,2-dimethyl-1,3-dioxolane-4-carboxamide (3.49 g, 14.8 mmol) in a 50% aqueous acetic acid solution (86 mL) was heated at reflux (30 min). The solvent was evaporated in vacuo, and the resulting residue was purified by silica gel column chromatography (10% MeOH-CHCl3) to obtain the desired product as a white solid (2.26 g, 78%); mp 83°-84° C.; Rf 0.35 (10% MeOH-CHCl3); [α]23D=-35.1° (c=0.10, MeOH); IR (KBr) 3337, 1649, 1623, 1546, 1109, 1049, 971, 739, 697 cm-1 ; 1H NMR (DMSO-d6) δ 3.45-3.59 (m, CHH'OH), 3.60-3.66 (m, CHH'OH), 3.90-3.98 (m, CHOH), 4.29 (d, J=6.3 Hz, CH2Ph), 4.65-4.85 (m, OH), 5.40-5.65 (m, OH), 7.15-7.40 (m, PhH), 8.25 (t, J=6.0 Hz, NH); 13C NMR (DMSO-d6) 41.8 (CH2Ph), 64.1 (CH2OH), 73.2 (CHOH), 126.7 (C4 '), 127.2 (2C2 ' or 2C3 '), 128.3 (2C2 ' or 2C3 '), 139.7 (C1 ') 172.4 (C(O)NH) ppm; MS (+Cl) 196 (M+ +1); Mr (+Cl) 196.097 09 [M+ +1] (calcd. for C10H14NO3 196.097 37); Anal (C10H13NO3) C, H, N.

reactant | (S)-N-benzyl-2,2-dimethyl-1,3-dioxolane-4-carboxamide | 14.8 mmol, 3.49 g | C(C1=CC=CC=C1)NC(=O)[C@H]1OC(OC1)(C)C | C13H17NO3
solvent | acetic acid | 86 mL | C(C)(=O)O | C2H4O2
product | (S)-N-benzyl-2,3-dihydroxypropionamide | C(C1=CC=CC=C1)NC([C@H](CO)O)=O | C10H13NO3
